US05719141
0.98 ml of methyl isocyanate is added to a suspension of 1.0 g of 3-hydroxyquinoline in 8 ml of methylene chloride and the reaction mixture is heated under reflux for 5 h. Purification by chromatography over 50 g silica gel (mobile phase J) gives 3-(methylaminocarbonyloxy)quinoline as a solid: Rf (L)=0.26.

reactant | methyl isocyanate | 0.98 ml | CN=C=O | C2H3NO
reactant | 3-hydroxyquinoline | 1.0 g | OC=1C=NC2=CC=CC=C2C1 | C9H7NO
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 3-(methylaminocarbonyloxy)quinoline | CNC(=O)OC=1C=NC2=CC=CC=C2C1 | C11H10N2O2
